US08877782B2
d) (5-Methyl-3-p-tolyl-isoxazol-4-yl)-methanol
As described for example 249d, 5-methyl-3-p-tolyl-isoxazole-4-carboxylic acid ethyl ester (12.6 g, 51.4 mmol) was converted, instead of 5-methyl-3-m-tolyl-isoxazole-4-carboxylic acid ethyl ester, to the title compound (3.95 g, 38%) which was obtained as a white solid. MS: m/e=204.2 [M+H]+.

reactant | 5-methyl-3-p-tolyl-isoxazole-4-carboxylic acid ethyl ester | 51.4 mmol, 12.6 g | C(C)OC(=O)C=1C(=NOC1C)C1=CC=C(C=C1)C | C14H15NO3
reactant | 5-methyl-3-m-tolyl-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1C)C=1C=C(C=CC1)C | C14H15NO3
product | (5-Methyl-3-p-tolyl-isoxazol-4-yl)-methanol | 3.95 g, 38% | CC1=C(C(=NO1)C1=CC=C(C=C1)C)CO | C12H13NO2
